US05661159
To a solution of 7-chloro-2-[5-{[2-(dimethylcarbamoyl)ethylthio](3-methoxycarbonylpropylthio)methyl}-benzofuran-2-yl]quinoline (0.49 g) in methanol (5 ml), 1N aqueous lithium hydroxide (1.32 ml) was added at ambient temperature under nitrogen atmosphere. After being stirred for 15 hours at ambient temperature, the resulting mixture was concentrated under reduced pressure to give a syrup. The syrup was dissolved in water, washed with diethyl ether, adjusted to pH 4 with diluted aqueous hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol. The fractions containing object compound were combined and concentrated in reduced pressure to give a syrup of 7-chloro-2-[5-{(3-carboxypropylthio)[2-(dimethylcarbamoyl)ethylthio]methyl}benzofuran-2-yl]quinoline (0.35 g).

reactant | 7-chloro-2-[5-{[2-(dimethylcarbamoyl)ethylthio](3-methoxycarbonylpropylthio)methyl}-benzofuran-2-yl]quinoline | 0.49 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)C(SCCCC(=O)OC)SCCC(N(C)C)=O | C28H29ClN2O4S2
solvent | methanol | 5 ml | CO | CH4O
solvent | lithium hydroxide | 1N, 1.32 ml | [OH-].[Li+]
solvent | water | O | H2O
product | 7-chloro-2-[5-{(3-carboxypropylthio)[2-(dimethylcarbamoyl)ethylthio]methyl}benzofuran-2-yl]quinoline | 0.35 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)C(SCCC(N(C)C)=O)SCCCC(=O)O | C27H27ClN2O4S2
